US07129239B2
Preparation of Intermediate 3-Isopropylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt (I-(7A-106)c)
To a solution of 1-benzhydryl-3-isopropylaminoazetidine-3-carboxylic acid amide (I-(7A-106)b; 2.28 g, 7.05 mmol) in methanol (100 ml) was added 1M HCl in ether (14.8 ml, 14.8 mmol) and then water (10 ml). After the addition of 20% Pd(OH)2 on carbon (60% water; 1.43 g), the mixture was placed on a Parr® shaker and then reduced (50 psi H2) at room temperature overnight. The mixture was filtered through a pad of Celite®, and then concentrated, in vacuo. The residue was then concentrated, in vacuo, from toluene (2×), acetonitrile (2×) and then methanol to give I-(7A-106)c (1.59 g, 98%) as a tan solid: +ACPI MS (M+1) 158.1; 1H NMR (400 MHz, CD3OD) δ 4.71 (d, J=13.3 Hz, 2H), 4.60 (d, J=13.3 Hz, 2H), 3.49 (septuplet, J=6.6 Hz, 1H), 1.34 (d, J=6.6 Hz, 6H).

reactant | 1-benzhydryl-3-isopropylaminoazetidine-3-carboxylic acid amide | 7.05 mmol, 2.28 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NC(C)C | C20H25N3O
reactant | HCl | 1M | Cl | ClH
reactant | ether | 14.8 mmol, 14.8 ml | CCOCC | C4H10O
reactant | water | 10 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd(OH)2 on carbon | 1.43 g | [OH-].[OH-].[Pd+2]
product | 3-Isopropylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt | Cl.C(C)(C)NC1(CNC1)C(=O)N | InChI=1S/C7H15N3O.ClH/c1-5(2)10-7(6(8)11)3-9-4-7;/h5,9-10H,3-4H2,1-2H3,(H2,8,11);1H
